US04199586
D-14. 3-Amino-1-n-propyl-5-(4-pyridinyl)-2(1H)-pyridinone
A solution containing 15.1 g. of 3-nitro-1-n-propyl-5-(4-pyridinyl)-2(1H)-pyridinone in 400 ml. of dry dimethylformamide was charged into an 800 ml. Parr bottle with 1.5 teaspoons of Raney nickel and the mixture was shaken under 650 p.s.i. of hydrogen at room temperature for four hours, during which time the reaction temperature was no more than 50° C. The catalyst was filtered off; the filtrate was treated with decolorizing charcoal and filtered; and, the solvent was distilled off under reduced pressure to leave 12.7 g. of crystalline solid. The solid was recrystallized from methanol to yield 7.2 g. of crystalline 3-amino-1-n-propyl-5-(4-pyridinyl)-2(1H)-pyridinone, m.p. 171°-173° C. after drying at 70° C. and 0.001 mm. for six hours.

reactant | 3-nitro-1-n-propyl-5-(4-pyridinyl)-2(1H)-pyridinone | [N+](=O)([O-])C=1C(N(C=C(C1)C1=CC=NC=C1)CCC)=O | C13H13N3O3
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 1.5 teaspoons | [Ni] | Ni
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-Amino-1-n-propyl-5-(4-pyridinyl)-2(1H)-pyridinone | NC=1C(N(C=C(C1)C1=CC=NC=C1)CCC)=O | C13H15N3O
